US07977358B2
C] 5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
In analogy to the procedure described in Example 160C], 5-cyclopropyl-3-pyridin-4-yl-1H-pyrazole-4-carboxylic acid ethyl ester and 3-(trifluoromethoxy)benzeneboronic acid gave the title compound as a colorless oil (23%). MS: 418.3 (MH+).

reactant | 5-cyclopropyl-3-pyridin-4-yl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1C1CC1)C1=CC=NC=C1 | C14H15N3O2
reactant | 3-(trifluoromethoxy)benzeneboronic acid | FC(OC=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O3
product | 5-Cyclopropyl-3-pyridin-4-yl-1-(3-trifluoromethoxy-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 23% | C(C)OC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)OC(F)(F)F)C1=CC=NC=C1 | C21H18F3N3O3
